US05739345
5-[4-{2-(Imidazo[1,2-a]pyridin-2-yl)ethoxy}benzyl]-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 0.80 g of 2-(2-hydroxyethyl)imidazo[1,2-a]pyridine (prepared as described in Preparation 26), 2.79 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 1.7 ml of tributylphosphine, 1.51 g of 1,1'-(azodicarbonyl)dipiperidine and 30 ml of benzene were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in ratios ranging from 1:4 to 0:1 by volume as the eluent, to give 0.97 g of the title compound, melting at 135.5°-142.4° C. (with decomposition).

reactant | 2-(2-hydroxyethyl)imidazo[1,2-a]pyridine | 0.80 g | OCCC=1N=C2N(C=CC=C2)C1 | C9H10N2O
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 2.79 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 1.7 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 1.51 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 5-[4-{2-(Imidazo[1,2-a]pyridin-2-yl)ethoxy}benzyl]-3-triphenylmethylthiazolidine-2,4-dione | N=1C(=CN2C1C=CC=C2)CCOC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C38H31N3O3S
